US05109024
Step B: N,N'-Bis[(3-oxo)butyl]-N,N'-bis[(phenyl)methyl]-1,7-diaminoheptane
Dissolve N,N'-bis[(phenyl)methyl]-1,7-heptanediamine (9.3 g, 0.03 mol) in methanol (120 ml) and while stirring the mixture introduce methyl vinyl ketone (5.6 ml, 0.066 mol) in a stream of nitrogen gas. Stir the mixture for 18 hours to yield the title compound.

reactant | N,N'-bis[(phenyl)methyl]-1,7-heptanediamine | 0.03 mol, 9.3 g | C1(=CC=CC=C1)CNCCCCCCCNCC1=CC=CC=C1 | C21H30N2
reactant | methyl vinyl ketone | 0.066 mol, 5.6 ml | C(=C)C(=O)C | C4H6O
solvent | methanol | 120 ml | CO | CH4O
product | N,N'-Bis[(3-oxo)butyl]-N,N'-bis[(phenyl)methyl]-1,7-diaminoheptane | O=C(CCN(CCCCCCCN(CC1=CC=CC=C1)CCC(C)=O)CC1=CC=CC=C1)C | C29H42N2O2
